US07687502B2
4-Chloro-6-hydroxy-quinazoline (500 mg; 2.78 mmol), 800 mg (8.33 mmol) of 1,3-difluoro-2-propanol and 2.18 g (8.33 mmol) of triphenyl phosphine were dissolved in 30 ml of THF and 3.62 g (8.33 mmol) was added thereto at room temperature. The reaction solution was stirred at room temperature for 3 hours more, a saturated aqueous solution of sodium hydrogen carbonate was added and the mixture was extracted with chloroform. The organic layer was dried and concentrated and the resulting residue was purified by a silica gel column chromatography (hexane:ethyl acetate=1:2) to give 530 mg (yield: 74%) of 4-chloro-6-(2-fluoro-1-fluoromethyl-ethoxy)-quinazoline as a yellow solid.

reactant | 4-Chloro-6-hydroxy-quinazoline | 2.78 mmol, 500 mg | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
reactant | 1,3-difluoro-2-propanol | 8.33 mmol, 800 mg | FCC(CF)O | C3H6F2O
reactant | triphenyl phosphine | 8.33 mmol, 2.18 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-chloro-6-(2-fluoro-1-fluoromethyl-ethoxy)-quinazoline | 530 mg, yield: 74% | ClC1=NC=NC2=CC=C(C=C12)OC(CF)CF | C11H9ClF2N2O
